US07638515B2
Ethyl-4-(4-chloro-3-methoxyphenyl)-4-methylpentanoate
24.1 g (85.23 mmol) of ethyl-E-4-(4-chloro-3-methoxyphenyl)-4-methylpent-2-enoate is mixed in 228 ml of ethyl acetate with 2.41 g of palladium on carbon (10%), and it is stirred overnight at room temperature under hydrogen atmosphere. The catalyst is removed by filtration through a glass-fiber filter, and the residue that remains after concentration by evaporation (24.1 g=99.1%) is incorporated in crude form into the next stage.

reactant | ethyl-E-4-(4-chloro-3-methoxyphenyl)-4-methylpent-2-enoate | 85.23 mmol, 24.1 g | C(C)OC(\C=C\C(C)(C)C1=CC(=C(C=C1)Cl)OC)=O | C15H19ClO3
solvent | ethyl acetate | 228 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 2.41 g | [Pd] | Pd
product | Ethyl-4-(4-chloro-3-methoxyphenyl)-4-methylpentanoate | C(C)OC(CCC(C)(C)C1=CC(=C(C=C1)Cl)OC)=O | C15H21ClO3
